US07902252B2
6.11. Synthesis of ±(1S,1aS,5aR)-1-methyl-1a,4,5,5a-tetrahydro-1H-4-aza-cyclopropa[α]pentalene-3-carboxylic acid (141)
The title compound was synthesized from ±(1S,1aS,5aR)-1-methyl-1a,4,5,5a-tetrahydro-1H-4-aza-cyclopropa[α]pentalene-3-carboxylic acid ethyl ester (0.12 g, 0.585 mmol) and sodium hydroxide (1.5M, 3.1 mL) according to General Procedure 7 to afford the title compound. LC-MS: MS m/z: 178 (M+1).

reactant | (1S,1aS,5aR)-1-methyl-1a,4,5,5a-tetrahydro-1H-4-aza-cyclopropa[α]pentalene-3-carboxylic acid ethyl ester | 0.585 mmol, 0.12 g | C(C)OC(=O)C=1NC=2C[C@H]3[C@@H](C2C1)[C@H]3C | C12H15NO2
reactant | sodium hydroxide | 1.5M, 3.1 mL | [OH-].[Na+]
product | (1S,1aS,5aR)-1-methyl-1a,4,5,5a-tetrahydro-1H-4-aza-cyclopropa[α]pentalene-3-carboxylic acid | C[C@@H]1[C@H]2[C@@H]1CC=1NC(=CC21)C(=O)O | C10H11NO2
